US06825180B2
To a solution of the crude (R)-3-(5-acetoxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione in methanol (10 ml) and was added a solution of potassium hydroxide (200 mg) in water (1 ml) was added. After stirring at room temperature for 3 hours, saturated aqueous sodium chloride solution (5 ml) and water (5 ml) were added. The methanol was evaporated under reduced pressure and the aqueous mixture was extracted with ethyl acetate (20 ml). The organic layer was applied to a short column of silica gel. Elution with ethyl acetate afforded (R)-3-(5-hydroxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (227 mg, 84% yield) as an oil. 1H NMR (300 MHz, CDCl3) δ 1.19 (d, 3H), 1.33-1.79 (m, 6H), 2.53 (s, 3H), 2.77 (s, 3H), 3.68 (s, 3H), 3.80 (m, 1H), 4.04 (t, 2H), 6.82 (s, 1H).

reactant | (R)-3-(5-acetoxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)C)C)=O)C | C18H25N3O4
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | sodium chloride | 5 ml | [Cl-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | (R)-3-(5-hydroxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 227 mg, 84% yield | O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)C)C)=O)C | C16H23N3O3
